US03944560
3-Oxo-4-carbomethoxy-3,4-dihydro-2H-1,5-benzodioxepin (110 g.) is added to a mixture of methanol (210 ml.), concentrated hydrochloric acid (50 ml.) and water (160 ml.) and the mixture then is refluxed for 18 hours. The product is extracted with ether, and the ether extract washed with four 50 ml. portions of sodium bicarbonate solution, then twice with 50 ml. portions of water. After drying the washed ether extract over magnesium sulfate and evaporation to remove the solvent there is obtained 3-oxo-3,4-dihydro-2H-1,5-benzodioxepin.

reactant | 3-Oxo-4-carbomethoxy-3,4-dihydro-2H-1,5-benzodioxepin | 110 g | O=C1C(OC2=C(OC1)C=CC=C2)C(=O)OC | C11H10O5
reactant | methanol | 210 ml | CO | CH4O
reactant | hydrochloric acid | 50 ml | Cl | ClH
solvent | water | 160 ml | O | H2O
product | 3-oxo-3,4-dihydro-2H-1,5-benzodioxepin | O=C1COC2=C(OC1)C=CC=C2 | C9H8O3
